US08476434B2
To N-methyl-4-(2-(4-nitrophenoxy)phenyl)pyrimidin-2-amine (0.667 g, 2.1 mmol) and palladium, 10 wt. % on activated carbon, wet (0.44 g, 0.41 mmol) in a 100 mL round bottom flask was added MeOH under nitrogen via syringe. The atmosphere was replaced with hydrogen from a balloon and the mixture stirred rapidly for 24 h. The reaction was flushed with nitrogen, and filtered through celite rinsing with 100 mL MeOH. The filtrate was concentrated in vacuo to give 4-(2-(4-aminophenoxy)phenyl)-N-methylpyrimidin-2-amine as a light yellow solid. MS m/z=293 [M+1]+. Calc'd for C17H16N4O: 292.34.

reactant | N-methyl-4-(2-(4-nitrophenoxy)phenyl)pyrimidin-2-amine | 2.1 mmol, 0.667 g | CNC1=NC=CC(=N1)C1=C(C=CC=C1)OC1=CC=C(C=C1)[N+](=O)[O-] | C17H14N4O3
reactant | hydrogen | [H][H] | H2
catalyst | palladium | [Pd] | Pd
solvent | MeOH | CO | CH4O
product | 4-(2-(4-aminophenoxy)phenyl)-N-methylpyrimidin-2-amine | NC1=CC=C(OC2=C(C=CC=C2)C2=NC(=NC=C2)NC)C=C1 | C17H16N4O
